Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4],3.17308599603
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.96323174476
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8][O:9][H:10],2.31919314555
[C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.193254995040001
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.49407176028
[H:11].[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.54835390069
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.30476203643
[C:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([O:10])([H:11])[H:12].[H:3]>>[C:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([O:10])([H:11])[H:12],-1.96118357291
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.93286555385
[H:11].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.03584923207
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14].[H:10],2.25953360254
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.99619546433
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.48059390208
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.82549838706
[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([C:8])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8][C:9]1([H:10])[H:11],-1.5168050332299998
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],1.79244103479
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.800066505657
[O:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1],1.7547761795900003
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1],8.10019977022
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9],3.59726740988
[C:2](\[H:3])(=[C:4]\[O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.90142409401
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],4.38113097209
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],4.61662972205
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],2.35202156071
[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.11199629268
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],4.96431460077
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1],4.83220898495
